US06166041
Preparation of 4-chloro-2-nitro-6-[2-(pyridin-2-yl)ethyl]phenol
To a solution of 12.5 g (54.56 mmol) 4-chloro-2-[2-(pyridin-2-yl)ethyl]phenol in 80 ml acetic acid is added portionwise to a nitrating mixture of 70% nitric acid (8.59 g, 136.39 mmol) in 20 ml acetic acid at 5-10° C. The reaction mixture is left to stir at this temperature for 2.5 hours. The pH of the reaction mixture is then adjusted to pH 5.5-6.0 (pH meter) by the addition of a saturated solution of sodium carbonate. The resulting reaction mixture is then extracted with EtOAc (3×300 ml). Concentration of the organic extracts in vacuo yielded a brown oil. This oil is purified by flash chromatography (SiO2, 30% EtOAc in hexane) to give the title compound as a yellow solid, (12.48 g, 82%), m.p. 97-100° C. δH (250 MHz, CDCl3), 11.1 (bs, 1H), 8.57-8.55 (m, 1H), 7.94 (d, J=2.6 Hz, 1H), 7.60 (dt, J=7.7,1.7 Hz, 1H), 7.35 (d, J=2.5 Hz, 1H), 7.17-7.11 (m, 2H), 3.21-3.08 (m, 4H).

reactant | 4-chloro-2-[2-(pyridin-2-yl)ethyl]phenol | 54.56 mmol, 12.5 g | ClC1=CC(=C(C=C1)O)CCC1=NC=CC=C1 | C13H12ClNO
reactant | nitric acid | 136.39 mmol, 8.59 g | [N+](=O)(O)[O-] | HNO3
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | acetic acid | 80 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
product | 4-chloro-2-nitro-6-[2-(pyridin-2-yl)ethyl]phenol | 12.48 g, 82% | ClC1=CC(=C(C(=C1)CCC1=NC=CC=C1)O)[N+](=O)[O-] | C13H11ClN2O3
